US07888380B2
4-{4-[5-amino-1-(2,6-difluoro-benzoyl)-1H-[1,2,4]triazol-3-ylamino]-benzenesulfonylamino}-4-oxo-butyric acid ethyl ester (Cpd 8)
To a nitrogen purged flask was added 4-[5-amino-1-(2,6-difluorobenzoyl)-1H-[1,2,4]triazol-3-ylamino]-benzenesulfonamide Compound 1a (1.0 g, 2.5 mmol) and THF (100 mL). The mixture was cooled to 0° C. and potassium tert-butoxide (2.8 mL, 1.0 M solu in THF) was added dropwise. After addition the mixture was stirred at 0° C. for 1 hr, then ethyl 4-chloro-4-oxobutyrate (0.46 g in 10 mL THF, 2.8 mmol) was added dropwise. The stirring was continued for 30 min, then the mixture was warmed to rt and stirred overnight. After being concentrated, the residue was purified by flash chromatography (silica gel, CH2Cl2:MeOH/9:1) to afford the desired product (200 mg, 15%) as a white solid. 1H NMR (300 MHz, CD3OD) δ 7.72 (d, 2H), 7.70 (m, 1H), 7.50 (d, 2H), 7.15 (t, 2H), 4.20 (q, 2H), 3.32 (s, 2H), 2.71 (s, 2H), 1.25 (t, 2H); MS (ESI) m/z: 523 (M+H)+.

reactant | 4-[5-amino-1-(2,6-difluorobenzoyl)-1H-[1,2,4]triazol-3-ylamino]-benzenesulfonamide | NC1=NC(=NN1C(C1=C(C=CC=C1F)F)=O)NC1=CC=C(C=C1)S(=O)(=O)N | C15H12F2N6O3S
reactant | potassium tert-butoxide | 1.0 M, 2.8 mL | CC(C)([O-])C.[K+]
reactant | ethyl 4-chloro-4-oxobutyrate | 2.8 mmol, 10 mL, 0.46 g | ClC(CCC(=O)OCC)=O | C6H9ClO3
solvent | THF | 100 mL | C1CCOC1 | C4H8O
product | 4-{4-[5-amino-1-(2,6-difluoro-benzoyl)-1H-[1,2,4]triazol-3-ylamino]-benzenesulfonylamino}-4-oxo-butyric acid ethyl ester | 200 mg, 15% | C(C)OC(CCC(=O)NS(=O)(=O)C1=CC=C(C=C1)NC1=NN(C(=N1)N)C(C1=C(C=CC=C1F)F)=O)=O | C21H20F2N6O6S
